US05608056
To a solution of allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(1-methylimidazol-2-yl)ethyl}-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (3.58 g) in acetone (17 ml) was added iodomethane (2.05 ml) with stirring at ambient temperature and then allowed to stand overnight. The reaction mixture was evaporated in vacuo and dried in vacuo for 1 hour to give allyl (4R,5S,6S)-3[(2R,4S)-1-allyloxycarbonyl-2-{2-(1,3-dimethyl-2-imidazolio)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (3.68 g).

reactant | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(1-methylimidazol-2-yl)ethyl}-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 3.58 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCC=1N(C=CN1)C | C27H36N4O6S
reactant | iodomethane | 2.05 ml | IC | CH3I
solvent | acetone | 17 ml | CC(=O)C | C3H6O
product | allyl (4R,5S,6S)-3[(2R,4S)-1-allyloxycarbonyl-2-{2-(1,3-dimethyl-2-imidazolio)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 3.68 g | [I-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CC[CH2+]1N(C=CN1C)C | InChI=1S/C28H41N4O6S.HI/c1-7-13-37-27(35)24-25(17(3)23-22(18(4)33)26(34)32(23)24)39-20-15-19(31(16-20)28(36)38-14-8-2)9-10-21-29(5)11-12-30(21)6;/h7-8,11-12,17-20,22-23,33H,1-2,9-10,13-16,21H2,3-6H3;1H/q+1;/p-1/t17-,18-,19-,20+,22-,23-;/m1./s1
